US07786165B2
methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate
To a solution of methyl 3-(4-aminophenyl)propanoate (3.33 g, 18.6 mmol) and 2′,6′-dimethylbiphenyl-3-carbaldehyde (3.91 g, 18.6 mmol) in toluene (40 mL) were added molecular sieves (0.4 nm, beads, 7.2 g), and the mixture was stirred at room temperature for 55 hr. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (100 mL). Sodium cyanoborohydride (2.53 g, 40.3 mmol) and acetic acid (2.31 mL, 40.3 mmol) were successively added, and the mixture was stirred under a nitrogen atmosphere at room temperature for 3 hr. Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10%-40% ethyl acetate/hexane) to give the title compound (4.24 g, yield 61%) as a colorless oil.

reactant | methyl 3-(4-aminophenyl)propanoate | 18.6 mmol, 3.33 g | NC1=CC=C(C=C1)CCC(=O)OC | C10H13NO2
reactant | 2′,6′-dimethylbiphenyl-3-carbaldehyde | 18.6 mmol, 3.91 g | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)C=O | C15H14O
reactant | Sodium cyanoborohydride | 40.3 mmol, 2.53 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 40.3 mmol, 2.31 mL | C(C)(=O)O | C2H4O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate | 4.24 g, yield 61% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CCC(=O)OC | C25H27NO2
